US08957068B2
(S)-1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethanamine hydrochloride
(R)—N—((S)-1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide was dissolved in dioxane (5 ml) and 4N HCl in dioxane (1.2 ml, 10 eq.) was added. Stirred 1H at room temperature. The solvents were removed and co-yapped twice with CH2Cl2. Some t-butyl observed by NMR. Resubmitted to reaction conditions and work-up to give title compound.

reactant | (R)—N—((S)-1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | C(C1=CC=CC=C1)N1N=C(C(=C1)[C@H](C)N[S@](=O)C(C)(C)C)C | C17H25N3OS
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.2 ml, 10 eq. | O1CCOCC1 | C4H8O2
product | (S)-1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethanamine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=C(C(=C1)[C@H](C)N)C | InChI=1S/C13H17N3.ClH/c1-10(14)13-9-16(15-11(13)2)8-12-6-4-3-5-7-12;/h3-7,9-10H,8,14H2,1-2H3;1H/t10-;/m0./s1
